US05817671
5-(N-[2,4-dichlorobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.085 gm (0.369 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.108 mL (0.776 mMol) 2,4-dichlorobenzoyl chloride, 0.108 gm (72.7%) of the title compound was recovered as an amorphous solid by the procedure described in Example 16.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.369 mMol, 0.085 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 2,4-dichlorobenzoyl chloride | 0.776 mMol, 0.108 mL | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
product | 5-(N-[2,4-dichlorobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.108 gm, 72.7% | ClC1=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=CC(=C1)Cl | C20H20Cl2N4O
